Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][c:2]1[cH:3][cH:4][c:5]([O:6][CH3:7])[cH:8][c:9]1[O:10][CH3:11].[CH3:12][O:13][c:14]1[cH:15][cH:16][c:17]([NH2:18])[c:19]([C:20](=[O:21])[c:22]2[cH:23][cH:24][cH:25][c:26]([F:27])[cH:28]2)[cH:29]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([O:6][CH3:7])[cH:8][c:9]1[O:10][CH3:11])[NH:18][c:17]1[cH:16][cH:15][c:14]([O:13][CH3:12])[cH:29][c:19]1[C:20](=[O:21])[c:22]1[cH:23][cH:24][cH:25][c:26]([F:27])[cH:28]1,[CH3:12][O:13][c:14]1[cH:15][cH:16][c:17]([NH2:18])[c:19]([C:20](=[O:21])[c:22]2[cH:23][cH:24][cH:25][c:26]([F:27])[cH:28]2)[cH:29]1.[O:101]=[CH:1][c:2]1[cH:3][cH:4][c:5]([O:6][CH3:7])[cH:8][c:9]1[O:10][CH3:11].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([O:6][CH3:7])[cH:8][c:9]1[O:10][CH3:11])[NH:18][c:17]1[cH:16][cH:15][c:14]([O:13][CH3:12])[cH:29][c:19]1[C:20](=[O:21])[c:22]1[cH:23][cH:24][cH:25][c:26]([F:27])[cH:28]1,reductive_amination,"[(18, 1), ([1, 101], 301), (101, 18.1), ([18.1, 18], 18), (18, [18, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 18], 18)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[c:3]([C:4]([F:5])([F:6])[F:7])[cH:8][cH:9][cH:10][cH:11]1.[O:12]=[C:13]([NH:14][CH2:15][CH2:16][CH:17]1[CH2:19][CH2:18]1)[c:20]1[cH:21][cH:22][c:23]([N:24]2[CH2:29][CH2:28][NH:27][CH2:26][CH2:25]2)[n:30][n:31]1>>[CH2:1]([c:2]1[c:3]([C:4]([F:5])([F:6])[F:7])[cH:8][cH:9][cH:10][cH:11]1)[N:27]1[CH2:26][CH2:25][N:24]([c:23]2[cH:22][cH:21][c:20]([C:13](=[O:12])[NH:14][CH2:15][CH2:16][CH:17]3[CH2:18][CH2:19]3)[n:31][n:30]2)[CH2:29][CH2:28]1,[O:12]=[C:13]([NH:14][CH2:15][CH2:16][CH:17]1[CH2:18][CH2:19]1)[c:20]1[cH:21][cH:22][c:23]([N:24]2[CH2:25][CH2:26][NH:27][CH2:28][CH2:29]2)[n:30][n:31]1.[Cl:101][CH2:1][c:2]1[c:3]([C:4]([F:5])([F:6])[F:7])[cH:8][cH:9][cH:10][cH:11]1>>[CH2:1]([c:2]1[c:3]([C:4]([F:5])([F:6])[F:7])[cH:8][cH:9][cH:10][cH:11]1)[N:27]1[CH2:26][CH2:25][N:24]([c:23]2[cH:22][cH:21][c:20]([C:13](=[O:12])[NH:14][CH2:15][CH2:16][CH:17]3[CH2:18][CH2:19]3)[n:31][n:30]2)[CH2:29][CH2:28]1,SN2,"[(27, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][C:4]([NH:5][C:6](=[O:7])/[CH:8]=[CH:9]/[c:10]2[cH:11][cH:12][c:13]([F:14])[c:15]([Br:16])[cH:17]2)([C:18](=[O:19])[NH:20][CH2:21][CH2:22][c:23]2[cH:24][nH:25][c:26]3[cH:27][cH:28][c:29]([F:30])[cH:31][c:32]23)[CH2:33][CH2:34]1>>[NH:1]1[CH2:2][CH2:3][C:4]([NH:5][C:6](=[O:7])/[CH:8]=[CH:9]/[c:10]2[cH:11][cH:12][c:13]([F:14])[c:15]([Br:16])[cH:17]2)([C:18](=[O:19])[NH:20][CH2:21][CH2:22][c:23]2[cH:24][nH:25][c:26]3[cH:27][cH:28][c:29]([F:30])[cH:31][c:32]23)[CH2:33][CH2:34]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][C:4]([NH:5][C:6](=[O:7])/[CH:8]=[CH:9]/[c:10]2[cH:11][cH:12][c:13]([F:14])[c:15]([Br:16])[cH:17]2)([C:18](=[O:19])[NH:20][CH2:21][CH2:22][c:23]2[cH:24][nH:25][c:26]3[cH:27][cH:28][c:29]([F:30])[cH:31][c:32]23)[CH2:33][CH2:34]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][C:4]([NH:5][C:6](=[O:7])/[CH:8]=[CH:9]/[c:10]2[cH:11][cH:12][c:13]([F:14])[c:15]([Br:16])[cH:17]2)([C:18](=[O:19])[NH:20][CH2:21][CH2:22][c:23]2[cH:24][nH:25][c:26]3[cH:27][cH:28][c:29]([F:30])[cH:31][c:32]23)[CH2:33][CH2:34]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([c:2]1[cH:3][cH:4][c:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH3:13])[cH:14][cH:15]1)(=[O:16])=[O:17].[NH2:18][c:19]1[n:20][n:21][cH:22][s:23]1>>[S:1]([c:2]1[cH:3][cH:4][c:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH3:13])[cH:14][cH:15]1)(=[O:16])(=[O:17])[NH:18][c:19]1[n:20][n:21][cH:22][s:23]1,[Cl:101][S:1]([c:2]1[cH:3][cH:4][c:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH3:13])[cH:14][cH:15]1)(=[O:16])=[O:17].[NH2:18][c:19]1[n:20][n:21][cH:22][s:23]1>>[S:1]([c:2]1[cH:3][cH:4][c:5]([CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH3:13])[cH:14][cH:15]1)(=[O:16])(=[O:17])[NH:18][c:19]1[n:20][n:21][cH:22][s:23]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(18, 1), ([1, 16], 16), (16, [16, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
